US04315006
(a) 5-(2-Hydroxyphenyl)-1,3-cyclohexanedione
5-(2-Methoxyphenyl)-1,3-cyclohexanedione (15.0 g) was suspended in methylene chloride (150 ml). The mixture was cooled to -78° with stirring and a solution of boron tribromide (39.3 g) in methylene chloride (75 ml) was added dropwise over 1h. The mixture was stirred at -78° for 45 min after the addition was complete and at room temperature for a further 18h. Excess water was added and the mixture was stirred vigorously at room temperature for 4h. The solid which separated out was collected by filtration, washed with water and dried to afford the title dione (12.0 g). Recrystallisation from aqueous ethanol afforded white prisms m.p. 190°-192°.

reactant | 5-(2-Methoxyphenyl)-1,3-cyclohexanedione | 15.0 g | COC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C13H14O3
reactant | boron tribromide | 39.3 g | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 5-(2-Hydroxyphenyl)-1,3-cyclohexanedione | OC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C12H12O3
